US07709500B2
N-{(2R)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-2-oxo-2,3-dihydro-1,3-benzothiazole-6-carboxamide acetate salt
Prepared as described in Example 1 from (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol (0.1 g) and 2-oxo-2,3-dihydro-1,3-benzothiazole-6-carboxylic acid (0.061 g). Title compound obtained as acetate salt, a white solid (0.10 g).

reactant | (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol | 0.1 g | NC[C@H](CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C14H20Cl2N2O2
reactant | 2-oxo-2,3-dihydro-1,3-benzothiazole-6-carboxylic acid | 0.061 g | O=C1SC2=C(N1)C=CC(=C2)C(=O)O | C8H5NO3S
product | N-{(2R)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-2-oxo-2,3-dihydro-1,3-benzothiazole-6-carboxamide acetate salt | C(C)(=O)O.ClC=1C=C(OC2CCN(CC2)C[C@@H](CNC(=O)C2=CC3=C(NC(S3)=O)C=C2)O)C=CC1Cl | InChI=1S/C22H23Cl2N3O4S.C2H4O2/c23-17-3-2-16(10-18(17)24)31-15-5-7-27(8-6-15)12-14(28)11-25-21(29)13-1-4-19-20(9-13)32-22(30)26-19;1-2(3)4/h1-4,9-10,14-15,28H,5-8,11-12H2,(H,25,29)(H,26,30);1H3,(H,3,4)/t14-;/m1./s1
